US07288544B2
2) Synthesis of 4-[4-(2,4-dimethylphenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester:
648 mg (1.67 mmol) of 4-[2-acetyl-3-(2,4-dimethylphenyl)-2-propenoyl]-1-piperazinecarboxylic acid t-butyl ester and 493 mg (1.67 mmol) of 3-aminocrotonate (3,3-diphenylpropyl) ester were heated and stirred in 5 ml of 2-propanol at 80° C. for two nights. After evaporating 2-propanol under reduced pressure, the residue was purified by the silica gel chromatography (hexane/ethyl acetate=5/1 to 1/9) to obtain the title compound.

reactant | 4-[2-acetyl-3-(2,4-dimethylphenyl)-2-propenoyl]-1-piperazinecarboxylic acid t-butyl ester | 1.67 mmol, 648 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C(=CC1=C(C=C(C=C1)C)C)C(C)=O)=O | C22H30N2O4
reactant | 3-aminocrotonate (3,3-diphenylpropyl) ester | 1.67 mmol, 493 mg | C1(=CC=CC=C1)C(CCOC(\C=C(\C)/N)=O)C1=CC=CC=C1 | C19H21NO2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 4-[4-(2,4-dimethylphenyl)-5-(3,3-diphenylpropoxycarbonyl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonyl] piperazine-1-carboxylic acid-t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1=C(NC(=C(C1C1=C(C=C(C=C1)C)C)C(=O)OCCC(C1=CC=CC=C1)C1=CC=CC=C1)C)C | C41H49N3O5
